US05672724
4.2 Synthesis of N-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine
Combine 2-nitromethylene-thiazolidine (1.25 kg, 8.53 mol) and acetonitrile (2.15 L). Add methylamine (0.85 kg). While maintaining the temperature of the reaction at below 35° C., add a solution of 5-[(dimethylamino)methyl]-2-(chloromethyl)-furan hydrochloride as obtained in Example 4.1, maintained at 50° C. to 60° C. to prevent crystallization. During the first hour, add about half to the solution. During the second hour, add about a quarter of the solution. During the third hour, add about an eighth of the solution. During the fourth and fifth hours, add the remainder of the solution. Add methylamine during the addition of 5-[(dimethylamino)methyl]-2-(chloromethyl)-furan hydrochloride. Add methylamine (0.18 kg) at the beginning of the addition and then seven more 0.18 kg portions, one portion about every 30 minutes, during about the first 3.5 hours of the addition. When the reaction is complete, add aqueous 32% sodium acetate solution. Separate the layers and extract the aqueous layer twice with acetonitrile (3.4 L). Combine the organic layers and evaporate in vacuo to obtain a residue. Combine the residue and methyl isobutyl ketone (2.8 L) and partially evaporate in vacuo before combining with methyl isobutyl ketone (15 L). Extract with aqueous 10% potassium carbonate solution. Separate the layers and extract the aqueous layer with methyl isobutyl ketone. Combine the organic layers extract with water. Evaporate the organic layer in vacuo to give a residue. Recrystallize the residue from methyl isobutyl ketone to give the title compound.

reactant | 2-nitromethylene-thiazolidine | 8.53 mol, 1.25 kg | [N+](=O)([O-])C=C1SCCN1 | C4H6N2O2S
reactant | acetonitrile | 2.15 L | C(C)#N | C2H3N
reactant | methylamine | 0.85 kg | CN | CH5N
reactant | 5-[(dimethylamino)methyl]-2-(chloromethyl)-furan hydrochloride | Cl.CN(C)CC1=CC=C(O1)CCl
solvent | methyl isobutyl ketone | 2.8 L | C(C(C)C)C(=O)C | C6H12O
product | N-[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine | CN(C)CC1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])NC | C13H22N4O3S
